### PR TITLE
refactor: Integrals

### PR DESCRIPTION
**Pull request by jstoobysmith**
Refactoring integrals on `Space` into their own directory, added some additional lemmas related to integrals and spheres, consequently golfed some proofs. Pushes some of the results from #942.

### CODE REVIEW

File: PhysLean/Electromagnetism/PointParticle/ThreeDimension.lean [hunk 1]
```diff
@@ -288,16 +288,12 @@ lemma threeDimPointParticle_div_electricField {𝓕} (q : ℝ) (r₀ : Space 3)
...
-    rw [h]
-    simp [smul_smul]
-    ext η
-    simp [constantTime_apply, diracDelta_apply, distTranslate_apply]
-    left
-    ring_nf
-    field_simp
-  simp [MeasureTheory.Measure.real]
-  exact pi_nonneg
+  simp [smul_smul]
```
Comment (morrison-daniel) [inline PhysLean/Electromagnetism/PointParticle/ThreeDimension.lean]: Can you combine this with the previous simp?

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,236 @@
...
+In this module we give general properties of integrals over `Space d`.
+We focus here on the volume measure, which is the usual measure on `Space d`, i.e.
+`dx dy dz`.
+
+## ii. Key results
+
+- `volume_eq_addHaar` : The volume measure on `Space d` is the same as the Haar measure
+  associated with the basis of `Space d`.
+- `integral_volume_eq_spherical` : The integral of a function over `Space d.succ` with
+  respect to the volume measure can be expressed as an integral over the unit sphere and t
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Move the hanging 't' to the next line with the rest of the word

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,236 @@
...
+/-!
+
+## A. Properties of the volume measure
+
+-/
+
+lemma volume_eq_addHaar {d} : (volume (α := Space d)) = Space.basis.toBasis.addHaar := by
+  exact (OrthonormalBasis.addHaar_eq_volume _).symm
+
+lemma volume_closedBall_ne_zero {d : ℕ} (x : Space d.succ) (r : ℝ) (hr : 0 < r) :
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]:
```suggestion
lemma volume_closedBall_ne_zero {d : ℕ} (x : Space d.succ) {r : ℝ} (hr : 0 < r) :
```

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,236 @@
...
+    · simpa using hk
+
+lemma volume_closedBall_ne_top {d : ℕ} (x : Space d.succ) (r : ℝ) :
+    volume (Metric.closedBall x r) ≠ ⊤ := by
+  obtain ⟨k,hk⟩ := Nat.even_or_odd' d.succ
+  rcases hk with hk | hk
+  · rw [InnerProductSpace.volume_closedBall_of_dim_even (k := k)]
+    simp only [Nat.succ_eq_add_one, finrank_eq_dim, ne_eq]
+    apply not_eq_of_beq_eq_false
+    rfl
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean:71]: It looks like here (and the case below) there are multiple goals, if so could you either focus on each goal with the dot notation or inline one/both proofs for clarity?

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,236 @@
...
+      have h1 := SFinite.out' (μ := volume (α := ℝ))
+      obtain ⟨m, h⟩ := h1
+      use fun n => Measure.comap Subtype.val (m n)
+      apply And.intro
+      · intro n
+        refine (isFiniteMeasure_iff (Measure.comap Subtype.val (m n))).mpr ?_
+        rw [MeasurableEmbedding.comap_apply]
+        simp only [Set.image_univ, Subtype.range_coe_subtype, Set.mem_Ioi]
+        have hm := h.1 n
+        exact measure_lt_top (m n) {x | 0 < x}
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean:168]: Again multiple goals

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,236 @@
...
+  simp [f']
+  refine lintegral_congr_ae ?_
+  filter_upwards [Measure.ae_ne volume 0] with x hx
+  congr
+  simp [smul_smul]
+  have hx : ‖x‖ ≠ 0 := by
+    simpa using hx
+  field_simp
+  simp only [one_smul]
+  simp
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Remove and change previous line to `simp [one_smul]`

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma lintegral_volume_eq_spherical_mul (d : ℕ) (f : Space d.succ → ENNReal) (hf : Measurable f) :
+    ∫⁻ x, f x ∂volume = ∫⁻ x, f (x.2.1 • x.1.1) * .ofReal (x.2.1 ^ d)
+      ∂(volume (α := Space d.succ).toSphere.prod (Measure.volumeIoiPow 0)) := by
+  rw [lintegral_volume_eq_spherical]
+  rw [Measure.volumeIoiPow, MeasureTheory.prod_withDensity_right,
+    MeasureTheory.lintegral_withDensity_eq_lintegral_mul]
+  rw [Measure.volumeIoiPow, MeasureTheory.prod_withDensity_right,
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Would it be cleaner to write this using simp only?

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+    MeasureTheory.lintegral_withDensity_eq_lintegral_mul]
+  · refine lintegral_congr_ae ?_
+    simp only [Nat.succ_eq_add_one, finrank_eq_dim, add_tsub_cancel_right, pow_zero,
+      ENNReal.ofReal_one]
+    filter_upwards with x
+    simp only [Pi.mul_apply, one_mul]
+    ring
+  all_goals
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Is all_goals doing anything if it doesn't have a tactic after it?

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean [hunk 9]
```diff
@@ -99,33 +99,153 @@ lemma integral_radialAngularMeasure {d : ℕ} (f : Space d → F) :
...
+
 /-!
 
-## C. HasTemperateGrowth of measures
+## C. The radialAngularMeasure on balls
 
 -/
 
+@[simp]
+lemma radialAngularMeasure_closedBall (r : ℝ) :
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean:141]: Is there potential to golf this lemma? Seems like there's room for simplification but I could be wrong

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean [hunk 10]
```diff
@@ -99,33 +99,153 @@ lemma integral_radialAngularMeasure {d : ℕ} (f : Space d → F) :
...
+  simp only [inv_nonneg, norm_nonneg, pow_nonneg, coe_mk]
+  positivity
+
+omit [NormedSpace ℝ F] in
+lemma integrable_radialAngularMeasure_of_spherical {d : ℕ} (f : Space d.succ → F)
+    (hae : StronglyMeasurable f)
+    (hf : Integrable (fun x => f (x.2.1 • x.1.1))
+    (volume (α := Space d.succ).toSphere.prod (Measure.volumeIoiPow 0))) :
+    Integrable f radialAngularMeasure := by
+  have h1 := hf.1
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]:
```suggestion
  have ⟨h1, h2⟩ := hf
```
and remove next line

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean [hunk 11]
```diff
@@ -99,33 +99,153 @@ lemma integral_radialAngularMeasure {d : ℕ} (f : Space d → F) :
...
+  have h2 := hf.2
+  refine ⟨StronglyMeasurable.aestronglyMeasurable hae, ?_⟩
+  rw [hasFiniteIntegral_iff_norm]
+  rw [lintegral_radialMeasure_eq_spherical_mul]
+  rw [← hasFiniteIntegral_iff_norm]
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]: Combine rw in one line

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean [hunk 12]
```diff
@@ -99,33 +99,153 @@ lemma integral_radialAngularMeasure {d : ℕ} (f : Space d → F) :
...
+  exact h2
+  · simpa using StronglyMeasurable.enorm hae
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]: I'm a little confused why this is indented but nothing else is, can we remove or add indentation where it's missing?

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean [hunk 13]
```diff
@@ -135,9 +255,7 @@ private lemma integrable_neg_pow_on_ioi (n : ℕ) :
     simp only [neg_add_rev, Nat.cast_add, Nat.cast_ofNat]
     have hx : 0 < x := hx
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]: I find this confusing, does positivity need this hypothesis changed to an inequality? If yes I would say change this to a rewrite using a lemma

File: PhysLean/Electromagnetism/PointParticle/ThreeDimension.lean (hunk 1 above)
Comment (jstoobysmith) [reply PhysLean/Electromagnetism/PointParticle/ThreeDimension.lean]: Yes - done.

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 2 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Done - don't know how this one happened.

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 3 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Fixed

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 4 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean:71]: Fixed by moving one of the goals into the rw

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 5 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean:168]: Fixed

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 6 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: Was multiple goals again, which I have fixed.

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 7 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: I've combined the rw's simp doesn't seem to work here

File: PhysLean/SpaceAndTime/Space/Integrals/Basic.lean (hunk 8 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/Basic.lean]: It is doing the `fun_prop` on the line below on all goals, I have changed it to `all_goals fun_prop` though to make it cleaner.

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean (hunk 9 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean:141]: Managed to do basic golfing to reduce it by 15 lines - I think likely more is possible, but I am unsure how without coming up with a new proof method.

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean (hunk 12 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]: Reorganised this whole proof

File: PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean (hunk 13 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Integrals/RadialAngularMeasure.lean]: Yes, needed for positivity, changed to a `rw`

**Review by morrison-daniel — APPROVED** [review]
